US09035059B2
Pyridine (18.2 mL, 226 mmol) and 4-dimethylaminopyridine (184 mg, 1.51 mmol) were added to a solution of 7-bromo-1,2,3,4-tetrahydroisoquinoline (32.0 g, 151 mmol) in chloroform (280 mL), and trifluoroacetic acid anhydride (21.9 mL, 158 mmol) was added dropwise thereto while cooling in ice. The mixture was warmed to room temperature and stirred for 20 hr. The mixture was concentrated under reduced pressure, 1 mol/L hydrochloric acid was added thereto, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium hydrogen carbonate solution and brine and dried over anhydrous magnesium sulfate and then the desiccant was filtered off, followed by concentration under reduced pressure. The resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=9:1→7:3) to afford 1-(7-bromo-3,4-dihydroisoquinolin-2(1 H)-yl)-2,2,2-trifluoroethanone as a pale yellow oil (42.4 g).

reactant | Pyridine | 226 mmol, 18.2 mL | N1=CC=CC=C1 | C5H5N
reactant | 7-bromo-1,2,3,4-tetrahydroisoquinoline | 151 mmol, 32.0 g | BrC1=CC=C2CCNCC2=C1 | C9H10BrN
reactant | trifluoroacetic acid anhydride | 158 mmol, 21.9 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
catalyst | 4-dimethylaminopyridine | 1.51 mmol, 184 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | chloroform | 280 mL | C(Cl)(Cl)Cl | CHCl3
product | 1-(7-bromo-3,4-dihydroisoquinolin-2(1 H)-yl)-2,2,2-trifluoroethanone | 42.4 g | BrC1=CC=C2CCN(CC2=C1)C(C(F)(F)F)=O | C11H9BrF3NO
